* D:\Documents\ecole\insa\5A\Projet\Projet_inter_Equipe1\Buck\schematic_initial\buck_basic.asc
L1 N001 N002 220µ Rser=50m
D1 0 N001 MBRB2545CT
Rch OUT 0 {Rch}
S1 N001 IN N003 0 MYSW
Cin IN 0 470µ
V1 N003 0 PULSE(-1 1 0 1p 1p {alpha/Fs} {1/Fs})
Vin IN 0 {Vin} Rser=100m
Cout N002 0 10µ Rser=1
R1 IN Vin_mon 100k
R2 Vin_mon 0 6.2k
R3 OUT Vout_mon 100k
R4 Vout_mon 0 6.2k
Rshunt OUT N002 5m
XU1 I_mon 0 N004 OUT N002 LTC6101
R5 N002 N004 100
R6 I_mon 0 5k
.model D D
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.dio
.param Fs=100k alpha=.64 Vin=38 Rch=2.5
.tran 0 30m 15m
.model MYSW SW(Ron=100m Roff=1Meg Vt=.5 Vh=0.4)
.meas Pin AVG -V(IN)*I(Vin)
.meas Pout AVG V(OUT)*I(Rch)
.meas Eff param Pout/Pin
.meas Irms RMS I(L1)
* .step dec param Rch 2.5 10 10
.meas Vout AVG V(out)
* Solar panel
* Vin sense
* Buck
* Iout_sense
* Vout_sense
* Load
.lib LTC3.lib
.backanno
.end
